US07799822B2
Under an N2 atmosphere at −78° C., 2,2,2-trifluoroacetic anhydride (5.0 g, 33.9 mmol) was added dropwise to a solution of 2-phenylpyrrolidine (4.7 mL, 33.8 mmol), triethylamine (4.7 mL, 33.9 mmol), and CH2Cl2 (50 mL). The reaction was allowed to warm to RT over a period of 30 minutes. After evaporating the solvents under reduced pressure, purification via silica gel chromatography using 7/3 hexanes/EtOAc gave 2,2,2-trifluoro-1-(2-phenylpyrrolidin-1-yl)ethanone as a white solid (6.1 g, 62%). LC/MS (10%-99% CH3CN (0.035% TFA)/H2O (0.05% TFA)), m/z: M+1 obs=244.3; tR=3.17 min.

reactant | 2,2,2-trifluoroacetic anhydride | 33.9 mmol, 5.0 g | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | 2-phenylpyrrolidine | 33.8 mmol, 4.7 mL | C1(=CC=CC=C1)C1NCCC1 | C10H13N
reactant | triethylamine | 33.9 mmol, 4.7 mL | C(C)N(CC)CC | C6H15N
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
product | 2,2,2-trifluoro-1-(2-phenylpyrrolidin-1-yl)ethanone | 6.1 g, 62% | FC(C(=O)N1C(CCC1)C1=CC=CC=C1)(F)F | C12H12F3NO
